US07439393B2
iii) 3-({2-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]ethoxy}methyl)-N,N,N-trimethylbenzenaminium iodide
A solution of 3-{12-[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]-13-oxo-15-phenyl-2,5,14-trioxa-12-azapentadec-1-yl}-N,N,N-trimethylbenzenaminium iodide (195 mg) in ethanol (15 ml) was hydrogenated over 10% palladium on carbon (194 mg) for 5 h. The mixture was filtered through celite and the solvent evaporated in vacuo. The residue was purified by mass directed autopreparative HPLC to give the title compound (7 mg). LCMS RT=2.13 min.

reactant | 3-{12-[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]-13-oxo-15-phenyl-2,5,14-trioxa-12-azapentadec-1-yl}-N,N,N-trimethylbenzenaminium iodide | 195 mg | [I-].CC1(OCC2=C(O1)C=CC(=C2)[C@H](CN(CCCCCCOCCOCC=2C=C(C=CC2)[N+](C)(C)C)C(OCC2=CC=CC=C2)=O)O)C
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 194 mg | [Pd] | Pd
product | 3-({2-[(6-{[(2R)-2-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]ethoxy}methyl)-N,N,N-trimethylbenzenaminium iodide | 7 mg | [I-].CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNCCCCCCOCCOCC=2C=C(C=CC2)[N+](C)(C)C)O)C | InChI=1S/C30H47N2O5.HI/c1-30(2)36-23-26-20-25(13-14-29(26)37-30)28(33)21-31-15-8-6-7-9-16-34-17-18-35-22-24-11-10-12-27(19-24)32(3,4)5;/h10-14,19-20,28,31,33H,6-9,15-18,21-23H2,1-5H3;1H/q+1;/p-1/t28-;/m0./s1
